US06809108B1
(2R)-1-{(2S,4S)-4-acetylamino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide
To a solution of 22 mg of (2R)-1-{(2S,4S)-4-amino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide in 1 ml of chloroform, 0.0089 ml of acetic anhydride and 0.0127 ml of pyridine were added at room temperature, followed by an hour's stirring at the same temperature. The reaction liquid was diluted with chloroform, washed successively with saturated aqueous sodium bicarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. After distilling the solvent off under reduced pressure, the resulting residue was purified with a preparative thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol=8/1), to provide 18 mg of the title compound as a white solid.

reactant | (2R)-1-{(2S,4S)-4-amino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 22 mg | N[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C44H57N5O3
reactant | acetic anhydride | 0.0089 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 0.0127 ml | N1=CC=CC=C1 | C5H5N
product | (2R)-1-{(2S,4S)-4-acetylamino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 18 mg | C(C)(=O)N[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C46H59N5O4
